US04152327
N-(4-Chlorophenyl)-10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide (IX)
The above-titled compound was prepared by reacting 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine with 2-chloro-N-(4-chlorophenyl)acetamide according to the method of Example 1; m.p. 159°-160°.

reactant | 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C(CCCCC)C)C | C23H35NO2
reactant | 2-chloro-N-(4-chlorophenyl)acetamide | ClCC(=O)NC1=CC=C(C=C1)Cl | C8H7Cl2NO
product | N-(4-Chlorophenyl)-10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide | ClC1=CC=C(C=C1)NC(CN1CC2=C(CC1)C(OC1=C2C(=CC(=C1)C(C(CCCCC)C)C)O)(C)C)=O | C31H41ClN2O3
